* ============================================================
* Cam signal front-end -- ECU pins 45/46/44 (5V excitation /
* Frequency I/P / ground), MCU pin PTB3 / FTM1_CH1 (input capture)
* ============================================================
* docs/pinmap.md sec.4, "Cam signal front-end (pin 46) -- a finding,
* not a fix," and spec sec.4's own front-end column for pin 46 both
* read "Pull-up to 5V_SENSOR -> timer capture": the cam Hall sensor's
* output pulled straight to the 5 V sensor rail and fed into a
* 3.3 V-rail MCU pin. No block in sim/blocks/ ever simulated it --
* there is vr_conditioner.cir for the crank sensor and no cam
* equivalent -- so a 5 V swing on that pin was never caught. This
* block is that check.
*
* WHAT THE SENSOR ACTUALLY IS. refs/ecu-pinout-extracted.md's Speed
* sensors table draws the cam sensor as a 3-pin device -- 5 V
* excitation (pin 45), Frequency I/P (pin 46), ground (pin 44) --
* with a "square-wave symbol," i.e. a digital Hall speed sensor, not
* the crank's variable-reluctance coil. Spec sec.4's own front-end
* text for pin 46, "Pull-up to 5V_SENSOR," only makes sense for an
* OPEN-COLLECTOR output -- a push-pull Hall output would never need
* an external pull-up specified for it. So the sensor pulls its
* output near 0 V when a target passes and otherwise leaves it
* floating, relying on an external resistor to define the high state
* -- exactly the topology below, just landing in the 3.3 V domain
* instead of the 5 V one spec sec.4 literally asked for.
*
* IS PTB3 5 V TOLERANT? No, not for anything this design should rely
* on. NXP "S32K1xx Data Sheet," Rev. 15, 5 March 2026 (fetched and
* text-extracted this session from nxp.com/docs/en/data-sheet/
* S32K1xx.pdf, not taken from memory) -- Table 17, "DC electrical
* specifications at 3.3 V Range": Vih max = VDD + 0.3 V, ~3.6 V at
* VDD = 3.3 V. A full 5 V swing exceeds that, so it is not a
* guaranteed valid logic level -- matching docs/pinmap.md sec.4's own
* conclusion for this exact pin. Table 1, "Absolute maximum ratings,"
* separately allows VIN_DC of -0.8 V to +5.8 V on ANY I/O pin -- but
* only "while respecting the maximum current injection limit"
* (IINJPAD_DC_ABS = +/-3 mA per pin, its footnote 5), and the
* datasheet's own words are that "functional operation at the
* maximum values is not guaranteed": it is a fault/stress margin, not
* a design basis for a signal that sits at 5 V continuously, every
* cam revolution, for the machine's running life. A raw pull-up to
* 5V_SENSOR with no dedicated attenuation relies on the MCU's own
* internal ESD/clamp structure to carry that current permanently,
* with no margin against a smaller pull-up value, a harness fault, or
* ESD stacking on top of the steady-state current. So the swing has
* to be divided into the 3.3 V domain before the pad, the same
* treatment already applied to battery_sense.cir and
* discrete_input.cir.
*
* CAM SIGNAL FREQUENCY AT 1500 RPM, shown not asserted:
*   crank   1500 rpm = 1500/60 = 25 Hz shaft rotation
*   cam turns at HALF crank speed (a camshaft turns once per two
*   crank revolutions on a 4-stroke engine) = 12.5 Hz shaft rotation
*   = 750 rpm
* Tooth/lobe count for the cam target is NOT recorded anywhere in
* this repo (checked docs/research/*.md, the spec, and
* refs/ecu-pinout-extracted.md). ASSUMED 1 lobe per cam revolution
* (INFERRED -- typical for a cylinder-sync Hall sensor, unlike the
* crank's 60-tooth wheel built for fine angle resolution): signal
* fundamental = 12.5 Hz, period 80 ms. If it is actually N lobes
* (e.g. N=3, one per cylinder), the fundamental becomes N*12.5 Hz --
* 37.5 Hz at N=3 -- see the TOLERANCE section for why the filter
* corner below does not care which.
*
* TOPOLOGY. R1 is both the sensor's own required pull-up AND the top
* half of a divider into the 3.3 V domain: R1/R2 = 10k/16k, the SAME
* ratio and the SAME 5V_SENSOR rail sensor_ratiometric.cir already
* uses for its own channels, reused rather than invented:
*     5.00 V (sensor off, floating high)      -> 5.00 * 16/26 = 3.077 V
*     4.50 V (sensor_rail.cir's own fault floor for a healthy group)
*                                              -> 4.50 * 16/26 = 2.769 V
* both inside [2.31 V logic-high floor (0.7*3.3), 3.6 V abs-max
* ceiling]. C1 = 22 nF, the SAME value sensor_ratiometric.cir uses,
* gives the SAME corner, because R1||R2 is the identical 6.154 kohm
* Thevenin resistance:
*     fc = 1 / (2*pi * 6154 * 22e-9) = 1176 Hz
* -- about 94x above the 12.5 Hz fundamental (31x above a 3-lobe
* 37.5 Hz fundamental), comfortably inside a front end this project
* has already validated at that exact corner (sensor_ratiometric.cir:
* -0.0 dB at the sensor's own bandwidth, -38.6 dB at 100 kHz). D1 is
* a 3.3 V zener, the same model sensor_ratiometric.cir uses, clamping
* the pad against a harness short on the 5V_SENSOR excitation line or
* on the signal line itself -- it does not touch the signal in normal
* operation, since 3.077 V sits 0.22 V clear of the 3.3 V knee.
* ============================================================

.model DZ3V3 D(Is=1e-14 N=1 Rs=5 BV=3.3 IBV=5e-3)
* Hall output stage: saturates near 0 V when the control node is
* high (magnet present), else open -- the open-collector behaviour.
.model HALLSW SW(Ron=10 Roff=1e9 Vt=2.5 Vh=0.1)

* ---- network A: DC transfer, sensor OFF (floating high), 5V_SENSOR
* swept across sensor_rail.cir's own fault-floor-to-nominal range
* (4.5-5.25 V) ----
Vraila rail_a 0 DC 5
R1a rail_a na 10k
R2a na  0   16k
C1a na  0   22n
D1a 0   na  DZ3V3

* ---- network B: transient at nominal 5V_SENSOR, sensor switching at
* the cam's own 12.5 Hz (80 ms period), 50% duty (INFERRED target
* geometry -- no lobe-width figure exists anywhere in this repo) ----
Vrailb rail_b 0 DC 5
R1b rail_b nb 10k
S1  nb 0 ctrl 0 HALLSW
R2b nb  0   16k
C1b nb  0   22n
D1b 0   nb  DZ3V3
Vctrl ctrl 0 PULSE(0 5 0 1u 1u 40m 80m)

* ---- network C: harness short to battery on the signal line -- R1
* limits fault current, D1 clamps. Same fault sensor_ratiometric.cir
* checks for its own 5V_SENSOR-fed channels. ----
Vflt sc 0 DC 40
R1c sc  nc  10k
R2c nc  0   16k
C1c nc  0   22n
D1c 0   nc  DZ3V3

.control
dc Vraila 4.5 5.25 0.01
wrdata cam_frontend_dc.dat v(na)

tran 20u 170m
wrdata cam_frontend_tran.dat v(nb) v(ctrl)

op
wrdata cam_frontend_fault.dat v(nc) i(Vflt)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* Proved here: the pull-up/divider keeps the pad inside [2.31 V,
* 3.6 V] across the 5V_SENSOR fault-floor-to-nominal range, the
* filter corner sits two orders of magnitude above the cam's own
* 12.5 Hz signal while still rejecting switching-frequency noise
* (same corner sensor_ratiometric.cir already validated for that),
* the transient behaviour produces clean edges at the sensor's own
* rate, and a 40 V harness short on the signal line is survivable
* (clamped, current-limited) rather than destructive.
*
* NOT modelled:
*   - The real Hall sensor's saturation voltage, output current
*     rating, and internal pull-up presence -- no part chosen.
*     HALLSW's Ron=10 ohm is a stand-in for a saturated transistor,
*     not a datasheet number.
*   - Lobe count / target geometry -- see the header. The TOLERANCE
*     section below shows the filter margin survives the plausible
*     range.
*   - A real cam signal is not a clean square wave any more than a
*     real VR signal is a clean sine (vr_conditioner.cir's own
*     RESULT NOTE makes the equivalent point for the crank input).
*     Edge transition time and any target-geometry-driven duty-cycle
*     asymmetry are not modelled.
*   - ESD at the connector.
*   - ADC/timer-capture sampling behaviour itself -- this block ends
*     at the pad voltage, not at what FTM1_CH1 resolves from it.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* TOLERANCE
* ------------------------------------------------------------
* Two parameters this verdict could plausibly move on: the 5V_SENSOR
* rail's own tolerance, and the lobe-count/frequency assumption.
*
* RAIL TOLERANCE -- already swept in this file, not a hand wave: the
* DC sweep above covers 4.5-5.25 V, sensor_rail.cir's own fault floor
* to above nominal. At the low end (4.5 V) the node still reads
* 2.769 V, 0.459 V clear of the 2.31 V logic-high floor; at the high
* end (5.25 V) it reads 3.231 V, 0.369 V clear of the 3.6 V abs-max
* ceiling. Both margins are real, not razor-thin.
*
* DIVIDER RESISTOR TOLERANCE -- not re-run in SPICE here, for the
* same reason sensor_ratiometric.cir's RESULT NOTE gives: R1/R2 are
* the IDENTICAL 10k/16k topology at the IDENTICAL ratio, so that
* block's own re-derivation applies verbatim rather than needing a
* second SPICE pass -- a linear resistor divider's response to a
* component tolerance is algebra, not something SPICE resolves any
* more precisely. At +/-1% (standard resistor tolerance), that
* analysis found the ratio moves about 1.4%, i.e. roughly 43 mV on
* this block's 3.077 V nominal figure -- against a 0.223 V
* clamp-clearance margin and a 0.459 V logic-high margin (the tighter
* of the two, at the 4.5 V rail floor), neither of which a 43 mV
* shift threatens.
*
* LOBE COUNT / SIGNAL FREQUENCY -- the header's 12.5 Hz fundamental
* assumes 1 lobe per cam revolution, INFERRED and unconfirmed. Re-
* read at N=3 lobes (one per cylinder, the other plausible geometry,
* since this is a 3-cylinder engine): fundamental becomes 37.5 Hz.
* The filter corner (1176 Hz) is 94x the N=1 case and 31x the N=3
* case -- both comfortably in the "does not touch the signal" regime
* sensor_ratiometric.cir's own AC sweep already demonstrated at a
* smaller margin (its 100 Hz sensor signal sits 11.8x below the same
* 1176 Hz corner and passes with 0.0 dB loss). So this verdict does
* not depend on which lobe count is correct -- what would actually
* move it is a much higher cam-side event rate than either geometry
* plausibly produces (e.g. a many-toothed cam wheel used for fine
* resolution, which nothing in this repo suggests exists), not the
* 1-vs-3 ambiguity that is actually open.
* ------------------------------------------------------------
